US07754747B2
Step 7: 5-[({6-[2-(2-Butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]-1H-tetraazole.
A mixture of ({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile (504 mg, 1.19 mmol), prepared in the previous step, sodium azide (230 mg, 3.54 mmol) and ammonium chloride (191 mg, 3.56 mmol) in 15 mL of DMF was stirred at 100° C. for 5 h. By TLC starting material remained. Additional sodium azide (230 mg, 3.54 mmol) and ammonium chloride (189 mg, 3.52 mmol) were added and the reaction stirred at 100° C. for two hours. Again by TLC starting material remained. Additional sodium azide (232 mg, 3.54 mmol) and ammonium chloride (191 mg, 3.55 mmol) were added and the reaction stirred at 100° C. for two hours. The reaction was diluted with water, made basic by the addition of 1N NaOH and extracted three times ethyl acetate The aqueous layer was acidified with 1N HCl. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (308 mg, 56%) as a white solid, mp 238-240° C. Elemental Analysis for C27H23N5O3 Calc'd: C, 69.66; H, 4.98; N, 15.04. Found: C, 69.51; H, 4.99; N, 15.1

reactant | ({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile | 1.19 mmol, 504 mg | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OCC#N)C=CC=C2 | C27H22N2O3
reactant | sodium azide | 3.54 mmol, 230 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 3.56 mmol, 191 mg | [Cl-].[NH4+]
reactant | sodium azide | 3.54 mmol, 230 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 3.52 mmol, 189 mg | [Cl-].[NH4+]
reactant | sodium azide | 3.54 mmol, 232 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 3.55 mmol, 191 mg | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-[({6-[2-(2-Butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]-1H-tetraazole | 308 mg, 56% | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OCC1=NN=NN1)C=CC=C2 | C27H23N5O3
